US09353075B2
Step 1. Preparation of [4-[4-(trifluoromethyl)-phenyl]-phenyl]-methanol
Under nitrogen atmosphere, at 0° C., to a stirring mixture of LiAlH4 (2.0 M THF solution, 3.0 mL, 6.00 mmol) in dry THF (10 mL), commercially available 4-[4-(trifluoromethyl)-phenyl]-benzoic acid (0.4 g, 1.5 mmol) in dry THF (10 mL) was added dropwise. The mixture was left to react at rt for 4 h, then at 0° C. H2O (0.23 mL), 3.0 M KOH solution (0.23 mL) and H2O (0.77 mL) were very slowly added. The mixture was stirred for 1 h at 0° C., filtered to remove the solid residue, and the organic phase dried over Na2SO4. The organic solution was again filtered, concentrated to dryness and the resulting crude product purified by column chromatography using a Teledyne ISCO apparatus, eluting with Cy:EtOAc (from 100:0 to 70:30) to afford the title compound (0.3 g, 79%), as white solid. 1H NMR (DMSO-d6): δ 4.56 (d, J=5.7 Hz, 2H), 5.25 (t, J=5.7 Hz, 1H), 7.45 (d, J=8.1 Hz, 2H), 7.70 (d, J=8.1 Hz, 2H), 7.81 (d, J=8.1 Hz, 2H), 7.89 (d, J=8.1 Hz, 2H).

reactant | LiAlH4 | 6.00 mmol, 2.0 M, 3.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-[4-(trifluoromethyl)-phenyl]-benzoic acid | 1.5 mmol, 0.4 g | FC(C1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1)(F)F | C14H9F3O2
reactant | H2O | 0.23 mL | O | H2O
reactant | KOH | 3.0 M, 0.23 mL | [OH-].[K+]
reactant | H2O | 0.77 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [4-[4-(trifluoromethyl)-phenyl]-phenyl]-methanol | 0.3 g, 79% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CO)(F)F | C14H11F3O
